US05849759
4-(4-(Methoxycarbonyl)piperidin-1-yl)-6-hydroxy-2-isopropylbenzimidazole (800 mg, 2.4 mmol, 1 eq) was dissolved in 20 mL THF and to the solution was added di-tert-butyldicarbonate (520 mg, 2.4 mmoL, 1 eq.) and the resulting mixture was refluxed. Thin layer chromatography indicated that the reaction was sluggish, therefore several 1 eq. aliquots of di-tert-butyldicarbonate were added over a period of 3 days of reflux. The reaction was cooled, the THF removed in vacuo, and the residue chromatographed (4:1 hexanes/ethylacetate) to give 1-tert-butoxycarbonyl-4-(4-(methoxycarbonyl)piperidin-1-yl)-6-hydroxy-2-isopropylbenzimidazole as a colorless solid, 590 mg (59%, yield).

reactant | 4-(4-(Methoxycarbonyl)piperidin-1-yl)-6-hydroxy-2-isopropylbenzimidazole | 2.4 mmol, 800 mg, 1 eq | COC(=O)C1CCN(CC1)C1=CC(=CC=2N=C(NC21)C(C)C)O | C17H23N3O3
reactant | di-tert-butyldicarbonate | 520 mg, 1 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-4-(4-(methoxycarbonyl)piperidin-1-yl)-6-hydroxy-2-isopropylbenzimidazole | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2N2CCC(CC2)C(=O)OC)O)C(C)C | C22H31N3O5
